US08633186B2
2-Nitro-6-(pentan-3-yloxy)benzonitrile
Prepared as in Example 111c from pentan-3-ol and 2,6-dinitrobenzonitrile in 86.5% yield. 1H NMR (400 MHz, DMSO-d6) δ 0.94 (t, J=7.6 Hz, 6H), 1.70 (m, 4H), 4.62 (m, 1H), 7.78 (dd, J=7.2, 2.4 Hz, 1H), 7.88 (m, 2H).

reactant | pentan-3-ol | CCC(CC)O | C5H12O
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-Nitro-6-(pentan-3-yloxy)benzonitrile | 86.5% yield | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OC(CC)CC | C12H14N2O3
